US04652303
Propionic anhydride (15.0 ml) was added cautiously to freshly prepared sodium methoxide (0.47 g; 9 mmole). On completion of the reaction 3-hydroxy-5-mesitylcyclohex-2-en-1-one (5.0 g; 22 mmole) was added and the reaction mixture was heated under reflux at a temperature of 160° C. for a period of 2 hours. The excess propionic anhydride was removed by evaporation under reduced pressure using a rotary evaporator. Aqueous 30% sodium hydroxide solution (50 ml) was added to the residue and the mixture was heated under reflux for a period of 1 hour with vigorous stirring. After cooling the mixture was acidified with concentrated hydrochloric acid and the aqueous mixture was extracted with dichloromethane. The organic extracts were dired over anhydrous sodium sulfate and the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product, a brown oil, was purified by chromatography over silica gel (eluant dichloromethane) to give 3-hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one (3.17 g; 50.2%) as a pale yellow oil. Proton magnetic resonance spectrum (CDCl3 ; δ in ppm): 1.60 (3H, t, J=8 Hz); 2.24 (3H, s); 2.37 (6H, s); 2.64-5.26 (7H, m); 6.84 (2H, m); 18.26 (1H, s).

reactant | Propionic anhydride | 15.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium methoxide | 9 mmole, 0.47 g | C[O-].[Na+]
reactant | 3-hydroxy-5-mesitylcyclohex-2-en-1-one | 22 mmole, 5.0 g | OC1=CC(CC(C1)C1=C(C=C(C=C1C)C)C)=O | C15H18O2
product | 3-hydroxy-5-mesityl-2-propionylcyclohex-2-en-1-one | 3.17 g, 50.2% | OC1=C(C(CC(C1)C1=C(C=C(C=C1C)C)C)=O)C(CC)=O | C18H22O3
